US06114520
To a solution of dimethylaminopyridine (19.0 g, 155.5 mmol) in acetonitrile (120 ml) and pyridine (12.6 ml, 155.5 mmol) phosphoryl chloride (14.4 g, 93.8 mM) was added dropwise in an ice bath under Ar atmosphere. After stirring the mixture for 1 hour at room temperature, a solution of 2',3'-bis-O-(tert-butyldimethylsilyl)-5'-deoxy-5-ethynyluridine (14.9 g, 31.1 mmol) in acetonitrile (80 ml) was added at 5° C. with cooling in an ice bath. The mixture was stirred at room temperature for 2 hours. Then, 25% aq. ammonia solution (10 ml) was added in one portion to the reaction mixture while keeping the temperature below 10° C. A second portion of 25% aq. ammonia solution (65 ml) was added to the reaction mixture while keeping the temperature below 10° C. The mixture was stirred at room temperature for 45 minutes. Then the reaction mixture was diluted with water (200 ml) at room temperature and extracted three times with ethyl acetate. The combined organic layers were washed successively with aq. 1N-hydrochloric acid solution, aq. saturated sodium bicarbonate and brine. The organic layer was dried over MgSO4, filtered and evaporated under reduced pressure. Purification of the residue by silica gel chromatography (using n-hexane:ethyl acetate=2:1 as an eluent) gave 2',3'-bis-O-(tert-butyidimethylsilyl)-5'-deoxy-5-ethynylcytidine (14.8 g, 99% yield).

reactant | dimethylaminopyridine | 155.5 mmol, 19.0 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | pyridine | 155.5 mmol, 93.8 mM, 12.6 ml, 14.4 g | N1=CC=CC=C1 | C5H5N
reactant | 2',3'-bis-O-(tert-butyldimethylsilyl)-5'-deoxy-5-ethynyluridine | 31.1 mmol, 14.9 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)N1C(=O)NC(=O)C(=C1)C#C | C23H40N2O5Si2
reactant | ammonia | 10 ml | N | H3N
reactant | ammonia | 65 ml | N | H3N
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2',3'-bis-O-(tert-butyidimethylsilyl)-5'-deoxy-5-ethynylcytidine | 14.8 g, 99% yield | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)N1C(=O)N=C(N)C(=C1)C#C | C23H41N3O4Si2
